* C:\Study\Intern\Op-Amp-Github\Schematic.asc
M1 N001 N005 N007 0 CMOSN l=0.5u w=0.6u
M2 N002 N004 N007 0 CMOSN l=0.5u w=0.6u
M3 N007 N008 0 0 CMOSN l=500n w=12u
M4 N008 N008 0 0 CMOSN l=500n w=12u
I1 Vdd N008 30µ
M5 N002 N001 Vdd Vdd CMOSP l=0.5u w=27u
M6 N001 N001 Vdd Vdd CMOSP l=0.5u w=27u
M7 N003 N008 0 0 CMOSN l=500n w=14u
M8 N003 N002 Vdd Vdd CMOSP l=0.5u w=66u
V1 Vdd 0 1.8
C1 N003 N002 4p
V2 Vdd/2 0 0.9
R1 N006 0 10k
R2 N003 N005 10k
R3 N005 Vdd/2 10k
V3 N004 0 SINE(0.9 100m 5k)
C2 N006 N003 10µ
C3 0 N003 10p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hardi\OneDrive\Attachments\Documents\LTspiceXVII\lib\cmp\standard.mos
.include tsmc018.lib
* Vdd/2 is generated by the user by a resistive divider
.tran 1m
.backanno
.end
